US06271392B1
2-Methoxy-3-cyano-4-(dichlorofluoromethyl)sulfenyl-5-methylpyrrole (Compound 4)
A suspension of 2-methoxy-3-cyano-5-methylpyrrole (0.5 g) in 5 ml of CH2Cl2 was treated with Cl2FCSCl (0.45 ml) and stirred at room temperature for 14 h. The resulting precipitate was filtered, washed with CH2Cl2, and dried under high vacuum to afford an off-white solid (0.59 g), m.p. 175° C.

reactant | 2-methoxy-3-cyano-5-methylpyrrole | 0.5 g | COC=1NC(=CC1C#N)C | C7H8N2O
reactant | Cl2FCSCl | 0.45 ml | FC(Cl)(Cl)SCl | CCl3FS
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-3-cyano-4-(dichlorofluoromethyl)sulfenyl-5-methylpyrrole | 0.59 g | COC=1NC(=C(C1C#N)SC(F)(Cl)Cl)C | C8H7Cl2FN2OS
